US06100272
4-Trifluoromethanesulfonyloxy-1-tert-butyl-1,2,3,6-tetrahydropyridine
A stirred solution of diisopropylamine (3.35 ml, 0.025 mol) in dry tetrahydrofuran (70 ml) at -65° C. under argon, was treated with n-butyllithium (13.7 mL; 0.022 mol of a 1.6M sol. in hexanes) and the reaction was stirred at this temperature for 15 minutes. A solution of 1-tert-butylpiperidin-4-one (prepared by the method of Katritzky et al, JCS (B), 1971, 6, 1302-7) (3.1 g; 0.02 mol) in dry tetrahydrofuran (15 mis) was added over 15 minutes, maintaining the temperature at <-60° C. Stirring was continued at this temperature for 2.5 h, then a solution of N-phenyltrifluoromethane sulfonimide (7.82 g; 0.022 mol) in dry tetrahydrofuran was added, and the reaction was allowed to warm to room temperature, and stirred for 1.5 h. The solvents were evaporated under reduced pressure and the residue was purified on a neutral alumina column, eluting with 60-80 petrol ether and diethyl ether, to give the title compound as a yellow oil (2.43 g, 42%).

reactant | diisopropylamine | 0.025 mol, 3.35 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-tert-butylpiperidin-4-one | C(C)(C)(C)N1CCC(CC1)=O | C9H17NO
reactant | N-phenyltrifluoromethane sulfonimide | 0.022 mol, 7.82 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 4-Trifluoromethanesulfonyloxy-1-tert-butyl-1,2,3,6-tetrahydropyridine | 2.43 g, 42% | FC(S(=O)(=O)OC=1CCN(CC1)C(C)(C)C)(F)F | C10H16F3NO3S
